* Subcircuit 6_bit_dac
.subckt 6_bit_dac net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ 
* d:\8.softwares\esim\fossee\esim\library\subcircuitlibrary\6_bit_dac\6_bit_dac.cir
.include 5_bit_dac.sub
.include switch.sub
x1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad6_ net-_x1-pad6_ net-_u1-pad5_ net-_x1-pad8_ 5_bit_dac
x2 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_x1-pad6_ net-_u1-pad7_ net-_u1-pad5_ net-_x2-pad8_ 5_bit_dac
x3 net-_u1-pad8_ net-_x1-pad8_ net-_x2-pad8_ net-_u1-pad9_ switch
* Control Statements

.ends 6_bit_dac