* e:\esim-dac\2_bit_dac\2_bit_dac.cir

.include switch.sub
v1  net-_r1-pad2_ gnd 3.3
r1  net-_r1-pad1_ net-_r1-pad2_ 250
r2  net-_r2-pad1_ net-_r1-pad1_ 250
r3  net-_r3-pad1_ net-_r2-pad1_ 250
r4  gnd net-_r3-pad1_ 250
v3  vtwo gnd pulse(0 1.8 0.2m 60p 60p 0.2m 0.4m)
v2  vone gnd pulse(0 1.8 0.1m 60p 60p 0.1m 0.2m)
* u1  voutput plot_v1
* u2  vone plot_v2
x1 vone net-_r1-pad1_ net-_r2-pad1_ /vmid1 switch
x2 vone net-_r3-pad1_ gnd /vmid2 switch
x3 vtwo /vmid1 /vmid2 voutput switch
c1  voutput gnd 5p
.tran 0.01e-03 0.4me-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(voutput)
plot v(vone,plot_v2)
.endc
.end
