* c:\fossee\esim\library\subcircuitlibrary\switch\switch.cir

.include nmos_180nm.lib
.include pmos_180nm.lib
m2 net-_m1-pad1_ /digital_input net-_m2-pad3_ net-_m2-pad3_ pfet W=180n L=180n M=1
m4 /vout net-_m1-pad1_ /vin_1 /vin_1 pfet W=180n L=180n M=1
m1 net-_m1-pad1_ /digital_input gnd gnd nfet W=180n L=180n M=1
m3 /vout net-_m1-pad1_ /vin_2 /vin_2 nfet W=180n L=180n M=1
v1  net-_m2-pad3_ gnd 3.3
* u1  /digital_input /vin_1 /vin_2 /vout port
.tran 0e-03 0e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
